US04112095
Preparation of 6-(m-chlorophenyl)-3,8-dimethyl-1,2,4-triazolo-[4,3-b]pyridazine
A mixture of 7.17 g. of 3-chloro-6-(m-chlorophenyl)-4-methylpyridazine, 100 ml. of n-butanol and 6.96 g. of acetylhydrazine is refluxed overnight. The mixture is coated and filtered to give solid. The solid is dissolved in methylene chloride and the solution passed through a short column of hydrous magnesium silicate. The eluent is refluxed while hexane is gradually added until crystals separated. Cooling and filtering gives 3.30 g. of crystals, m.p. 193.5°-195.5° C.

reactant | 3-chloro-6-(m-chlorophenyl)-4-methylpyridazine | ClC=1N=NC(=CC1C)C1=CC(=CC=C1)Cl | C11H8Cl2N2
reactant | n-butanol | C(CCC)O | C4H10O
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 6-(m-chlorophenyl)-3,8-dimethyl-1,2,4-triazolo-[4,3-b]pyridazine | ClC=1C=C(C=CC1)C=1C=C(C=2N(N1)C(=NN2)C)C | C13H11ClN4
